US06103910
b) (E)-(R)-1-[6-[(R)-2-Carboxy-pyrrolidin-1-yl)-6-oxo-hex-3-enoyl]-pyrrolidine-2-carboxylic acid
To a stirred solution of 600 mg (1.33 mmol) (E)-(R)-1-[6-[(R)-2-tert-butoxycarbonyl-pyrrolidin-1-yl)-6-oxo-hex-3-enoyl]-pyrrolidine-2-carboxylic acid tert-butyl ester in 15 ml dichloromethane at 0° C. was added dropwise 4.4 ml (57.8 mmol) trifluoroacetic acid and stirring continued for 16 h at room temperature. Concentration in vacuo and azeotroping three times with chloroform on a rotary evaporator afforded 402 mg (90%) of the title compound as a white foam.

reactant | (E)-(R)-1-[6-[(R)-2-tert-butoxycarbonyl-pyrrolidin-1-yl)-6-oxo-hex-3-enoyl]-pyrrolidine-2-carboxylic acid tert-butyl ester | 1.33 mmol, 600 mg | C(C)(C)(C)OC(=O)[C@@H]1N(CCC1)C(C\C=C\CC(=O)N1[C@H](CCC1)C(=O)OC(C)(C)C)=O | C24H38N2O6
reactant | trifluoroacetic acid | 57.8 mmol, 4.4 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | (E)-(R)-1-[6-[(R)-2-Carboxy-pyrrolidin-1-yl)-6-oxo-hex-3-enoyl]-pyrrolidine-2-carboxylic acid | 402 mg, 90% | C(=O)(O)[C@@H]1N(CCC1)C(C/C=C/CC(=O)N1[C@H](CCC1)C(=O)O)=O | C16H22N2O6
